US09278950B2
Step 2. 4-Bromo-5-fluoro-2-nitrobenzaldehyde
To a stirred solution of methyl 4-bromo-5-fluoro-2-nitrobenzoate (5.348 g, 19.24 mmol) in DCM (100 mL) at −78° C., a solution of diisobutylaluminum hydride in DCM (1.0 M, 25.0 mL, 25.0 mmol) was added dropwise over a period of 10 min. The mixture was stirred at −78° C. for 2 h. MeOH (10.0 mL) was then added. The reaction mixture was allowed to warm to room temperature. A 10 wt % aqueous solution of sodium tartrate (100 mL) was added to the mixture. The mixture was then stirred vigorously until a distinct bilayer was formed. The mixture was then diluted with DCM (100 mL), washed with water (2×100 mL), brine (2×100 mL), dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (0-30% EtOAc in Hexanes) to give the sub-title compound as a pale yellow solid (4.19 g, 88%). LCMS calc. for C7H4BrFNO3 (M+H)+: m/z=247.9; found no ionization.

reactant | methyl 4-bromo-5-fluoro-2-nitrobenzoate | 19.24 mmol, 5.348 g | BrC1=CC(=C(C(=O)OC)C=C1F)[N+](=O)[O-] | C8H5BrFNO4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | MeOH | 10.0 mL | CO | CH4O
reactant | sodium tartrate | 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25.0 mmol, 1.0 M, 25.0 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-5-fluoro-2-nitrobenzaldehyde | 4.19 g, 88% | BrC1=CC(=C(C=O)C=C1F)[N+](=O)[O-] | C7H3BrFNO3
